US09085540B2
Under an argon atmosphere, to a mixture of 6-bromo-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide (257 mg), phenylboronic acid (196 mg), and N-methylpyrrolidone (5.14 mL) were added tetrakistriphenylphosphine palladium (0) (80 mg) and a 2 M aqueous sodium carbonate solution (805 μL), followed by stirring at 120° C. for 4 hours. After leaving to be cooled, chloroform and water were added thereto, followed by stirring, and the insoluble matter was separated by filtration. The filtrate was subjected to liquid separation, and the organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol:28% aqueous ammonia=1:0:0-150:10:1) to obtain 3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-6-phenyl-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide (244 mg) as a yellow solid.

reactant | 6-bromo-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide | 257 mg | BrC1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CNCC1 | C25H36BrN9O
reactant | phenylboronic acid | 196 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | N-methylpyrrolidone | 5.14 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium carbonate | 2 M, 805 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-6-phenyl-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide | 244 mg | CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)NC=1C(=NC(=C(N1)N[C@H]1CNCC1)C1=CC=CC=C1)C(=O)N | C31H41N9O
